US07259165B2
Preparation of 3-Amino-6-(4-benzylpiperazin-1-yl)-2-[(phenylsulfonyl)methyl]-pyridine
A stirred mixture of 6-(4-benzylpiperazin-1-yl)-3-nitro-2-[(phenylsulfonyl)-methyl]pyridine (1.81 g, 4.00 mmol) and granular tin (2.09 g, 17.6 mmol) in methanol is treated with conc. HCl, heated under nitrogen at 50° C. for 7 h, stirred at ambient temperatures for 16 h, poured into aqueous NaHCO3 and extracted with EtOAc. The combined extracts are dried over MgSO4 and concentrated in vacuo. The resultant residue is chromatographed (silica gel, EtOAc as eluent) to afford the title compound as a yellow solid, 1.47 g (87% yield), mp 175-176° C., identified by NMR and mass spectral analyses.

reactant | 6-(4-benzylpiperazin-1-yl)-3-nitro-2-[(phenylsulfonyl)-methyl]pyridine | 4.00 mmol, 1.81 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C(C(=N1)CS(=O)(=O)C1=CC=CC=C1)[N+](=O)[O-] | C23H24N4O4S
reactant | tin | 17.6 mmol, 2.09 g | [Sn] | Sn
reactant | HCl | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | CO | CH4O
product | 3-Amino-6-(4-benzylpiperazin-1-yl)-2-[(phenylsulfonyl)methyl]-pyridine | 87% yield | NC=1C(=NC(=CC1)N1CCN(CC1)CC1=CC=CC=C1)CS(=O)(=O)C1=CC=CC=C1 | C23H26N4O2S
